US06281227B1
D. 6-Fluoro-benzo[b]thiophene-2-sulfonic acid (1-furo[3,2-b]pyridin-2-ylmethyl-2-oxopyrrolidin3-(S)-yl)-amide
The title compound is prepared as described in EXAMPLE 1, Part K using 6-fluoro-benzo[b]thiophene-2-sulfonyl chloride and 3-(S)-amino-1-(furo[3,2-b]pyridin-2-ylmethyl)-pyrrolidin-2-one hydrochloride as starting material. The crude product is purified by column chromatography eluting with 66% EtOAc/CH2Cl2 to provide the title compound as a white solid.

reactant | 6-fluoro-benzo[b]thiophene-2-sulfonyl chloride | FC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4ClFO2S2
reactant | 3-(S)-amino-1-(furo[3,2-b]pyridin-2-ylmethyl)-pyrrolidin-2-one hydrochloride | Cl.N[C@@H]1C(N(CC1)CC1=CC2=NC=CC=C2O1)=O
product | 6-Fluoro-benzo[b]thiophene-2-sulfonic acid (1-furo[3,2-b]pyridin-2-ylmethyl-2-oxopyrrolidin3-(S)-yl)-amide | O1C(=CC2=NC=CC=C21)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)F)=O | C20H16FN3O4S2
